US05223498
A mixture of 1-(5-cyano-2-morpholinophenyl)thiourea (5.2 g), potassium carbonate (8.3 g), a 33% ethanolic solution of dimethylamine (15 ml), lead acetate trihydrate and ethanol (25 ml) was heated under reflux for 3 hours to yield 1,1-dimethyl-2-(5-cyano-2-morpholinophenyl)guanidine (m.p. 125°-127° C.) which was converted into its monofumarate salt [m.p. 223°-225° C. (dec)] which was recrystallised from methanol.

reactant | 1-(5-cyano-2-morpholinophenyl)thiourea | 5.2 g | C(#N)C=1C=CC(=C(C1)NC(=S)N)N1CCOCC1 | C12H14N4OS
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylamine | 15 ml | CNC | C2H7N
reactant | lead acetate trihydrate | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1,1-dimethyl-2-(5-cyano-2-morpholinophenyl)guanidine | CN(C(=NC1=C(C=CC(=C1)C#N)N1CCOCC1)N)C | C14H19N5O
